US07074817B2
Ethyl 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetate
Ethyl {1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate was prepared from 1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indole (2.80 g, 7.62 mmol), oxalyl chloride (2.0 mL, 23 mmol), and ethanol (4.5 mL) according to the procedure described in Step 3 of Example 1. Purification by flash chromatography using 5-10% ethyl acetate in hexane as an eluant then drying at 60° C. furnished the title compound as a yellow gum (3.05 g, 86%). 1HNMR (300 MHz, DMSO-d6): δ 8.75 (s, 1H), 8.45 (s, 1H), 7.8 (d, 2H, J=9.2 Hz), 7.75 (d, 1H, J=9.2 Hz), 7.6 (d, 1H, J=9.2 Hz), 7.45 (d, 2H, J=9.2 Hz), 7.3-7.4 (m, 5H), 5.85 (s, 2H), 4.35 (q, 2H, J=7.5 Hz), and 1.35 ppm (t, 3H, J=7.5 Hz).

reactant | 1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indole | 7.62 mmol, 2.80 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F | C22H16F3NO
reactant | oxalyl chloride | 23 mmol, 2.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 4.5 mL | C(C)O | C2H6O
product | Ethyl 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetate | 3.05 g, 86% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO4
